US05574031
1-{2-[(4,4'-Difluorobenzhydryl)oxy}ethyl}-4-(N,N-diethylcarbamoyl)piperazine hydrochloride.
A solution of 5 g (0.015 mol) of 1-[2-[(4,4'-Difluorobenzhydryl)oxy]ethyl]piperazine. 50 ml toluene and 3 ml (0.02 mol) triethylamine was added dropwise to a solution of 1.5 g (0.005 mol) triphosgene in 100 ml toluene at 5°-10° C. for 1 h. The mixture was allowed to stand at room temperature for 16 h and then washed with 1-N NaOH and water, dried over sodium sulphate. Evaporation of the solvent yielded the crude base as an oil.

reactant | 1-[2-[(4,4'-Difluorobenzhydryl)oxy]ethyl]piperazine | 0.015 mol, 5 g | FC1=CC=C(C(C2=CC=C(C=C2)F)OCCN2CCNCC2)C=C1 | C19H22F2N2O
reactant | triethylamine | 0.02 mol, 3 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.005 mol, 1.5 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-{2-[(4,4'-Difluorobenzhydryl)oxy}ethyl}-4-(N,N-diethylcarbamoyl)piperazine hydrochloride | Cl.FC1=CC=C(C(C2=CC=C(C=C2)F)OCCN2CCN(CC2)C(N(CC)CC)=O)C=C1 | InChI=1S/C24H31F2N3O2.ClH/c1-3-28(4-2)24(30)29-15-13-27(14-16-29)17-18-31-23(19-5-9-21(25)10-6-19)20-7-11-22(26)12-8-20;/h5-12,23H,3-4,13-18H2,1-2H3;1H
